US07348017B2
Valine tert-butyl ester hydrochloride is reacted with 4-methoxybenzenesulfonyl chloride in dichloromethane in the presence of triethylamine, to give tert-butyl 2-{[(4-methoxyphenyl)sulfonyl]amino}-3-methylbutanoate.

reactant | Valine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](N)C(C)C)=O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 2-{[(4-methoxyphenyl)sulfonyl]amino}-3-methylbutanoate | COC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)OC(C)(C)C)C(C)C | C16H25NO5S
